US07960567B2
2-(3-Chloro-4-(4-(2,4-dichlorophenylsulfonamido)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid (20).
Under an N2 atmosphere, methyl 2-(3-chloro-4-(4-(2,4-dichlorophenylsulfonamido)-1-(2,4-dichlorophenylsulfonyl)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate (0.097 g, 0.127 mmol) was dissolved in tetrahydrofuran (1.5 mL) and 1 N LiOH (1.5 mL) was added. The reaction was stirred at 50° C. for 3 h. The reaction was diluted with water, made acidic with 1N HCl to pH 4, and extracted with ethyl acetate. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo to afford the title compound. LC-MS ESI (pos.) m/z: 541.9 (M+H). 1H NMR (400 MHz) (DMSOd-6) δ 7.63 (d, J=8.5 Hz, 1H); 7.46 (bs, 1H); 7.31-7.22 (m, 3H); 6.94 (d, J=7.6 Hz, 1H); 6.46 (bs, 1H); 6.29 (bs, 1H) 3.51 (s, 2H); 2.48 (s, 3H).

reactant | methyl 2-(3-chloro-4-(4-(2,4-dichlorophenylsulfonamido)-1-(2,4-dichlorophenylsulfonyl)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate | 0.127 mmol, 0.097 g | ClC=1C=C(C=CC1OC1=C(C2=C(N(C(=N2)C)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)CC(=O)OC | C29H20Cl5N3O7S2
reactant | LiOH | 1 N, 1.5 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(3-Chloro-4-(4-(2,4-dichlorophenylsulfonamido)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid | ClC=1C=C(C=CC1OC1=C(C2=C(NC(=N2)C)C=C1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)CC(=O)O | C22H16Cl3N3O5S
